US07166625B2
Preparation of 3-benzyl-oxazol-3-ium bromide
2 g oxazole was reacted with 4.95 g benzyl bromide at room temperature for 2 hours and then overnight at 50° C. On cooling to room temperature, solids were filtered and dried. The yield was 3.1 g. The material was dissolved in ethanol and recrystalized with MTBE. The recrystallized compound had a melting point of 177–180° C. and proton NMR spectra consistent with the structure 3-benzyl-oxazol-3-ium bromide. On analysis the compound contained 50.00% C, 4.04% H, 36.36% Br, and 5.08% N.

reactant | oxazole | 2 g | O1C=NC=C1 | C3H3NO
reactant | benzyl bromide | 4.95 g | C(C1=CC=CC=C1)Br | C7H7Br
product | 3-benzyl-oxazol-3-ium bromide | [Br-].C(C1=CC=CC=C1)[N+]1=COC=C1 | InChI=1S/C10H10NO.BrH/c1-2-4-10(5-3-1)8-11-6-7-12-9-11;/h1-7,9H,8H2;1H/q+1;/p-1
